US09212147B2
Under an argon atmosphere, to 3-chloro[1,4]benzodioxino[2,3-c]pyridazine (500 mg) were added 1,2-dimethoxyethane (7.5 ml), 2M aqueous sodium carbonate solution (3.0 mL), 2-[(E)-2-(3,5-difluorophenyl)vinyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (720 mg) and tetrakis(triphenylphosphine)palladium (130 mg). The reaction mixture was stirred at 100° C. for 3 hr and cooled to room temperature. Water was added, and the obtained solid was collected by filtration and dried under reduced pressure to give 3-[(E)-2-(3,5-difluorophenyl)vinyl][1,4]benzodioxino[2,3-c]pyridazine (700 mg).

reactant | 3-chloro[1,4]benzodioxino[2,3-c]pyridazine | 500 mg | ClC1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C10H5ClN2O2
reactant | 1,2-dimethoxyethane | 7.5 ml | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 3.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-[(E)-2-(3,5-difluorophenyl)vinyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 720 mg | FC=1C=C(C=C(C1)F)/C=C/B1OC(C(O1)(C)C)(C)C | C14H17BF2O2
catalyst | tetrakis(triphenylphosphine)palladium | 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | O | H2O
product | 3-[(E)-2-(3,5-difluorophenyl)vinyl][1,4]benzodioxino[2,3-c]pyridazine | 700 mg | FC=1C=C(C=C(C1)F)/C=C/C1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C18H10F2N2O2
